US04219679
This experiment was carried out using 735 grams of 3-nitrophenylacetylene in isopropanol (6.6% wt. conc.) over 140 grams of the cobalt polysulfide paste from Example 11. After reaction time of 1.4 hours, analysis showed that 82% of feed had been converted, and that an 82% yield to desired 3-aminophenylacetylene was obtained. About 18% of product was polymeric in nature. This run is summarized in Table 1 below.

reactant | 3-nitrophenylacetylene | 735 grams | [N+](=O)([O-])C=1C=C(C=CC1)C#C | C8H5NO2
solvent | isopropanol | C(C)(C)O | C3H8O
product | 3-aminophenylacetylene | 82% yield | NC=1C=C(C=CC1)C#C | C8H7N
